US09144239B2
Step 1: Preparation of tert-butyl N-tert-butoxycarbonyl-N-[(3S,7S,8S,9S)-7,8-dimethoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]carbamate (compound 104)
To solution of tert-butyl N-tert-butoxycarbonyl-N-[(3S,7S,8R,9S)-7,8-dihydroxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]carbamate (0.220 g, 0.543 mmol) and Na2SO4 (500 mg) in CH2Cl2 (5.4 mL) at 0° C. was added Proton-Sponge™ (1.63 g, 7.60 mmol) and trimethyloxonium tetrafluoroborate (0.562 g, 3.80 mmol). The reaction mixture was slowly warmed to room temperature and stirred overnight. The reaction mixture was diluted with EtOAc and filtered. The organic layer was washed successively with H2O, 1 M aqueous NaHSO4, and saturated aqueous NaHCO3. The organic layer was dried over MgSO4, filtered, and the filtrate was concentrated and purified by flash chromatography (SiO2, hexanes/EtOAc gradient) to yield the title compound as a colorless oil (133 mg, 57%): IR (neat) 2980, 2935, 1746, 1707, 1367, 1254, 1106 cm−1; 1H NMR (400 MHz, CDCl3) δ 5.19 (dd, J=8.9, 4.2 Hz, 1H), 4.75 (dq, J=9.4, 6.3 Hz, 1H), 4.23 (dd, J=12.1, 4.2 Hz, 1H), 3.89 (dd, J=12.1, 9.0 Hz, 1H), 3.80 (d, J=10.6 Hz, 1H), 3.56-3.48 (m, 1H), 3.52 (s, 3H), 3.42 (s, 3H), 3.17-3.11 (m, 1H), 3.06 (t, J=9.0 Hz, 1H), 1.48 (s, 18H), 1.40 (d, J=6.3 Hz, 3H); 13C NMR (101 MHz, CDCl3) δ 169.10, 152.73, 86.77, 85.12, 83.13, 75.07, 72.76, 72.52, 61.21, 58.43, 57.94, 28.03, 18.65; HRMS-ESI (m/z) [M]+ calcd for C20H35NO9, 433.2312; found, 433.2317.

reactant | tert-butyl N-tert-butoxycarbonyl-N-[(3S,7S,8R,9S)-7,8-dihydroxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]carbamate | 0.543 mmol, 0.220 g | C(C)(C)(C)OC(=O)N(C(OC(C)(C)C)=O)[C@@H]1C(O[C@H]([C@@H]([C@H](COC1)O)O)C)=O | C18H31NO9
reactant | Na2SO4 | 500 mg | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | Proton-Sponge | CN(C)C1=CC=CC2=C1C(=CC=C2)N(C)C | C14H18N2
reactant | trimethyloxonium tetrafluoroborate | 3.80 mmol, 0.562 g | F[B-](F)(F)F.C[O+](C)C
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 5.4 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl N-tert-butoxycarbonyl-N-[(3S,7S,8S,9S)-7,8-dimethoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]carbamate | 133 mg, 57% | C(C)(C)(C)OC(=O)N(C(OC(C)(C)C)=O)[C@@H]1C(O[C@H]([C@@H]([C@H](COC1)OC)OC)C)=O | C20H35NO9
